US09399630B2
According to another synthetic process described in US'916 patent, vilazodone is prepared by reacting 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile with sulfur trioxide/pyridine complex in dimethylsulfoxide to produce a reaction mass, followed by customary work up and then concentrating the resulting mass to produce an oily residue. The resulting residue is then chromatographed on silica gel using a mixture of dichloromethane and methyl tert-butyl ether to produce 3-(4-oxobutyl)-1H-indole-5-carbonitrile. The oxobutyl compound is reacted with 5-(1-piperazinyl)benzofuran-2-carboxamide in the presence of sodium cyanoborohydride to produce vilazodone free base, which is further treated with aqueous hydrochloric acid to produce vilazodone hydrochloride.

reactant | vilazodone | C1=CC2=C(C=C1C#N)C(=CN2)CCCCN3CCN(CC3)C=4C=CC5=C(C4)C=C(O5)C(=O)N | C26H27N5O2
reactant | 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile | OCCCCC1=CNC2=CC=C(C=C12)C#N | C13H14N2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 3-(4-oxobutyl)-1H-indole-5-carbonitrile | O=CCCCC1=CNC2=CC=C(C=C12)C#N | C13H12N2O
